US06528525B1
(g) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate (0.56 g), which is the product of Reference example 9(f), and palladium on carbon (5%, 60 mg) and the reaction mixture was treated to afford the title compound (0.51 g) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate | 0.56 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C23H29N3O4
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate | 0.51 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C23H31NO4
